US08710086B2
Preparation of 4-(3-(4-(chloromethyl)-3-fluorophenyl)-4,4-dimethyl-5-oxo-2-thioxoimidazolidin-1-yl)-2-(trifluoromethyl)benzonitrile
The title compound was prepared according to General Method 10. 4-[3-(3-Fluoro-4-hydroxymethyl-phenyl)-4,4-dimethyl-5-oxo-2-thioxo-imidazolidin-1-yl]-2-trifluoromethyl-benzonitrile (0.5 g, 1.14 mmol) was dissolved in thionyl chloride (5 mL) and the solution was stirred at 100° C. for 12 h. The reaction mixture was concentrated under reduced pressure to obtain 300 mg of product.

reactant | 4-[3-(3-Fluoro-4-hydroxymethyl-phenyl)-4,4-dimethyl-5-oxo-2-thioxo-imidazolidin-1-yl]-2-trifluoromethyl-benzonitrile | 1.14 mmol, 0.5 g | FC=1C=C(C=CC1CO)N1C(N(C(C1(C)C)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=S | C20H15F4N3O2S
reactant | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-(3-(4-(chloromethyl)-3-fluorophenyl)-4,4-dimethyl-5-oxo-2-thioxoimidazolidin-1-yl)-2-(trifluoromethyl)benzonitrile | ClCC1=C(C=C(C=C1)N1C(N(C(C1(C)C)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=S)F | C20H14ClF4N3OS
